US08138197B2
Production of 1′-{[1-(1-Methylethyl)-6-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl]carbonyl}-6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one
TEA (0.2 mL) was added to a DMF suspension (2 mL) of 1-(1-methylethyl)-6-phenyl-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid, 6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride, EDCI and HOBT.H2O, heated at 80° C. and stirred for 2 hours. This was cooled to room temperature, iced water was added thereto, and its pH was adjusted to 2.5 with 1 N HCl solution added thereto. The resulting crystal was taken out through filtration, washed with water, washed with Et2O, and dried in vacuum at 70° C. to obtain the title compound as a pale brown powder. 1H-NMR (400 MHz, DMSO-d6) δ: 8.34 (1H, d, J=2.2 Hz), 8.26-8.21 (2H, m), 8.19 (1H, s), 8.19 (1H, dd, J=8.4, 2.6 Hz), 7.82 (1H, s), 7.58-7.47 (3H, m), 7.20 (1H, d, J=8.4 Hz), 5.33 (1H, sept, J=6.8 Hz), 4.45-4.30 (1H, m), 3.70-3.00 (3H, m), 2.95 (2H, s), 2.20-1.70 (4H, m), 1.55 (6H, d, J=6.8 Hz). MS [M+H]+=549.

reactant | 1-(1-methylethyl)-6-phenyl-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid | CC(C)N1N=CC2=C1N=C(C=C2C(=O)O)C2=CC=CC=C2 | C16H15N3O2
reactant | 6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride | Cl.N1N=NN=C1C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O
reactant | EDCI | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HCl | 1 N | Cl | ClH
solvent | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1′-{[1-(1-Methylethyl)-6-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl]carbonyl}-6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one | CC(C)N1N=CC=2C1=NC(=CC2C(=O)N2CCC1(CC2)OC2=CC=C(C=C2C(C1)=O)C1=NN=NN1)C1=CC=CC=C1 | C30H28N8O3
